US04263212
Charged in an autoclave having an inner capacity of 200 ml, were 16.32 g (209 millimoles) of benzene, 1.745 g (20.26 millimoles) of methyl acrylate and 19.4 mg (0.026 millimole) of Rh4 (CO)12, followed by supply of 60 ml of ethyl acetate. Carbon monoxide under 30 kg/cm2 was introduced into the autoclave and reaction was carried out at 220° C. for 6 hours to obtain 0.197 g (1.22 millimoles) of methyl cinnamate. The yield of methyl cinnamate was 6% based on methyl acrylate and 1170% based on the Rh atom.

reactant | benzene | 209 millimoles, 16.32 g | C1=CC=CC=C1 | C6H6
reactant | methyl acrylate | 20.26 millimoles, 1.745 g | C(C=C)(=O)OC | C4H6O2
reactant | Carbon monoxide | [C]=O | CO
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | methyl cinnamate | 1.22 millimoles, 0.197 g | C(C=CC1=CC=CC=C1)(=O)OC | C10H10O2
